* ===================================================================
* comparator -- static preamplifier + StrongARM latch + SR output latch
* gf180mcu 3.3 V, issue #9. Topology ratified in
* spec/decision-records/DR-0015-comparator-topology.md; sizing derived in
* spec/comparator-budget-memo.md.
*
* CANONICAL NETLIST -- the single source of truth for this block's
* devices and sizing. Every testbench under sim/comparator-*/testbench/
* embeds a VERBATIM copy of the text between the BEGIN/END markers,
* because the corner runner consumes self-contained fragments and
* forbids `.include` (sim/harness/README.md). The unit test
* sim/tests/test_comparator_netlist.py asserts that every embedded copy
* is byte-identical to this file, so the duplication cannot drift
* silently. Edit here, then re-run `python3 -m unittest discover -s
* sim/tests -t sim/tests` (or sim/selftest.sh) to see which copies need
* refreshing.
*
* Three subcircuits so a testbench can probe the piece it is measuring:
*
*   preamp     static differential preamplifier. Has a real DC operating
*              point -- this is what makes `.noise` a usable noise
*              measurement for this block (DR-0007, survey S3.5).
*   sarlatch   StrongARM latch. Reset-and-regenerate: NO DC operating
*              point, so `.noise` says nothing about it.
*   comparator preamp + sarlatch + isolation inverters + a NOR SR latch
*              that holds the decision through the next reset phase.
*              (NOR, not NAND: see the hysteresis comment above the
*              `comparator` subckt -- the inverters make the decision
*              pulses active-HIGH and remove a measured ~10 mV of
*              hysteresis.)
*
* Ports of `comparator`
*   vinp vinn  differential input. In the SAR these ARE the CDAC top
*              plates (DR-0006), so input capacitance and kickback are
*              load-bearing, not incidental.
*   clk        latch strobe. LOW = reset/precharge (the preamp keeps
*              tracking throughout), rising edge = decide. One phase.
*   ibias      static bias current INTO the block, 10 uA nominal. Bias
*              generation is NOT in this block's scope (DR-0007
*              Consequences); the pin is the contract.
*   dout doutb decision, held valid through the next reset.
*              dout = 1 means v(vinp) > v(vinn).
*   vdd vss    supply.
*
* Sizing, one line each (derivation: spec/comparator-budget-memo.md S3):
*   preamp pair  40/1 um    Pelgrom area sets the dominant offset term
*   preamp load  150 kohm   gain gm*R divides the latch's offset and noise
*   preamp tail  10 uA      33 uW static, 3.3 % of the < 1 mW power row
*   latch pair   8/0.5 um   its offset is divided by the preamp gain, so
*                           it is sized for speed, not for matching
* ===================================================================

* --- COMPARATOR-NETLIST-BEGIN (verbatim-copied into every testbench) ---
.subckt preamp vinp vinn ibias pop pon vdd vss
* 1:1 NMOS current mirror; ibias is forced into the diode branch.
Xmb  ibias ibias vss vss nfet_03v3 w=20u l=2u
Xmt  ptail ibias vss vss nfet_03v3 w=20u l=2u
* Input pair. The device whose gate is vinp drives the INVERTING node
* pon, so v(pop) - v(pon) = +A_v * (v(vinp) - v(vinn)).
Xmip pon vinp ptail vss nfet_03v3 w=40u l=1u
Xmin pop vinn ptail vss nfet_03v3 w=40u l=1u
* Unsalicided 1 kohm/sq p+ poly loads, 150 squares = 150 kohm nominal.
* Third terminal is the substrate/body contact. `ppolyf_u_1k`, not the
* 2 kohm/sq `ppolyf_u_2k` an earlier revision assumed: issue #118 drew
* SAB(49/0)+RES_MK(110/5)+Resistor(62/0) markers over the load-resistor
* bodies so `klt extract`'s gf180mcu deck recognises them as real devices
* instead of a Poly2 short, and at this repo's pinned klt commit that
* marker geometry can only select `ppolyf_u_1k` (1000 ohm/sq) -- the
* `_2k`/`_3k` flavours share the identical drawn geometry and are chosen by
* a build-time deck option this curated deck does not implement
* (`2AMLogic/klayout-tools#595`, open). `r_length` is doubled (75u -> 150u)
* at the same `r_width=1u` to preserve the 150 kohm target at the new
* sheet-rho -- see layout/adc-top/README.md "Resistors".
Xrlp vdd pop vss ppolyf_u_1k r_width=1u r_length=150u
Xrln vdd pon vss ppolyf_u_1k r_width=1u r_length=150u
.ends preamp

.subckt sarlatch inp inn clk outp outn vdd vss
* clk low  -> tail off; outp/outn/dip/din precharged to vdd
* clk high -> tail on; the input pair discharges dip/din at rates set by
*             v(inp)/v(inn), then the cross-coupled pairs regenerate.
Xmlt ltail clk   vss   vss nfet_03v3 w=16u l=0.35u
Xmlp dip   inp   ltail vss nfet_03v3 w=8u  l=0.5u
Xmln din   inn   ltail vss nfet_03v3 w=8u  l=0.5u
Xmnp outn  outp  dip   vss nfet_03v3 w=6u  l=0.35u
Xmnn outp  outn  din   vss nfet_03v3 w=6u  l=0.35u
Xmpp outn  outp  vdd   vdd pfet_03v3 w=8u  l=0.35u
Xmpn outp  outn  vdd   vdd pfet_03v3 w=8u  l=0.35u
Xmrp outn  clk   vdd   vdd pfet_03v3 w=4u  l=0.35u
Xmrn outp  clk   vdd   vdd pfet_03v3 w=4u  l=0.35u
Xmrd dip   clk   vdd   vdd pfet_03v3 w=2u  l=0.35u
Xmre din   clk   vdd   vdd pfet_03v3 w=2u  l=0.35u
.ends sarlatch

* Minimum-ish isolation inverter. Deliberately small: it is the only
* thing the regeneration nodes drive, so its gate capacitance is added
* directly to the latch's own output nodes and shows up as regeneration
* time.
.subckt inv a y vdd vss
Xp y a vdd vdd pfet_03v3 w=2u   l=0.35u
Xn y a vss vss nfet_03v3 w=1u   l=0.35u
.ends inv

.subckt nor2 a b y vdd vss
Xp1 ps a vdd vdd pfet_03v3 w=8u l=0.35u
Xp2 y  b ps  vdd pfet_03v3 w=8u l=0.35u
Xn1 y  a vss vss nfet_03v3 w=4u l=0.35u
Xn2 y  b vss vss nfet_03v3 w=4u l=0.35u
.ends nor2

.subckt comparator vinp vinn clk ibias dout doutb vdd vss
Xpre preamp_in1 preamp_in2 ibias pop pon vdd vss preamp
Xlat pop pon clk outp outn vdd vss sarlatch
* THE ISOLATION INVERTERS ARE NOT OPTIONAL -- they fix a measured
* hysteresis defect. Both StrongARM outputs precharge HIGH, so the
* decision arrives as an active-low pulse on exactly one of them, and
* the obvious way to hold it is a NAND SR latch wired straight to
* outp/outn. That circuit was built first and MEASURED: after deciding
* one way it would not flip back until the input reached ~10 mV of the
* opposite polarity -- about 3 LSB of hysteresis, which in a SAR (where
* the same comparator makes ten successive decisions on a shrinking
* residue) is a code-dependent error, not an offset.
*
* The cause is that a NAND SR latch's HELD STATE loads the two
* regeneration nodes asymmetrically. Wired directly, the node driving
* the NAND whose output is LOW sees that output swing when it falls
* (Miller-multiplied C_gd, ~26 fF against a regeneration node of a few
* tens of fF), while its twin drives a NAND whose output is already
* HIGH and stays there. The latch is therefore biased toward keeping
* the answer it already holds.
*
* Interposing one small inverter per side removes the coupling: the
* inverters are identical, both of their inputs precharge to V_DD, and
* neither loading depends on what the SR latch is holding. The SR latch
* becomes NOR-type because the inverters make the decision pulses
* active-HIGH. dout goes HIGH when outn falls, i.e. when
* v(vinp) > v(vinn), exactly as before.
Xis outn sset vdd vss inv
Xir outp srst vdd vss inv
Xno1 srst doutb dout  vdd vss nor2
Xno2 sset dout  doutb vdd vss nor2
* Input pass-through (zero-volt sources) so a testbench can probe the
* current the comparator draws from each CDAC top plate directly.
Vpp preamp_in1 vinp dc 0
Vpn preamp_in2 vinn dc 0
.ends comparator
* --- COMPARATOR-NETLIST-END ---
